US04337341
Following the procedure set forth in Example 19, 4a-(3-methoxyphenyl)-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1,3-dioxo-1H-2-pyrindine was reduced by reaction with lithium aluminum hydride to provide 4a-(3-methoxyphenyl)-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine.

reactant | 4a-(3-methoxyphenyl)-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1,3-dioxo-1H-2-pyrindine | COC=1C=C(C=CC1)C12CC(N(C(C2CCC1)=O)CC1=CC=CC=C1)=O | C22H23NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4a-(3-methoxyphenyl)-2-benzyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | COC=1C=C(C=CC1)C12CCN(CC2CCC1)CC1=CC=CC=C1 | C22H27NO
